US09212192B2
N,N-dibenzyl-4-bromo-2-(trifluoromethoxy)aniline
To a mixture of 4-bromo-2-(trifluoromethoxy)aniline (5 g, 19.53 mmol) and potassium carbonate (8.09 g, 58.89 mmol) in acetonitrile (200 mL) was added (bromomethyl)benzene (6.96 mL, 58.59 mmol) and the mixture was refluxed for 20 hours. The mixture was filtered and the filtrate was concentrated. The residue was purified by flash chromatography on silica gel (200-300 mesh) eluting with 5/1 petroleum ether/ethyl acetate to give the title compound. MS: 436 (M+H+)

reactant | 4-bromo-2-(trifluoromethoxy)aniline | 19.53 mmol, 5 g | BrC1=CC(=C(N)C=C1)OC(F)(F)F | C7H5BrF3NO
reactant | potassium carbonate | 58.89 mmol, 8.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)benzene | 58.59 mmol, 6.96 mL | BrCC1=CC=CC=C1 | C7H7Br
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N,N-dibenzyl-4-bromo-2-(trifluoromethoxy)aniline | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)Br)OC(F)(F)F)CC1=CC=CC=C1 | C21H17BrF3NO
